US07943652B2
Phosphorous oxychloride (4.01 mL, 43 mmol) was added drop-wise to N,N-dimethylformamide (9.96 mL, 129 mmol) at 0° C. and the mixture was stirred for 20 min. A solution of 2-tert-butyl-1H-pyrrolo[2,3-b]pyridine (5.0 g, 28.7 mmol) dissolved in N,N-dimethylformamide (30 mL) was added and the resulting mixture was slowly warmed up to room temperature. The mixture was stirred at room temperature for 2 h then at 40° C. for 3 h, and cooled in an ice bath, and 0.5 mL water was added. The reaction mixture was slowly warmed to 40° C. and stirred for 20 h. The mixture was poured onto approximately 100 mL ice, neutralized with an aqueous sodium hydroxide (5%) and extracted with dichloromethane. The organic layers were combined, dried over magnesium sulfate, filtered and concentrated in vacuo, and the residue was purified via silica gel column chromatography (0-30% ethyl acetate in heptane) to obtain 2-tert-butyl-1H-pyrrolo[2,3-b]pyridine-3-carbaldehyde (2.4 g, 11.9 mmol, 41% yield) as an off white solid.

reactant | Phosphorous oxychloride | 43 mmol, 4.01 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 2-tert-butyl-1H-pyrrolo[2,3-b]pyridine | 28.7 mmol, 5.0 g | C(C)(C)(C)C1=CC=2C(=NC=CC2)N1 | C11H14N2
reactant | water | 0.5 mL | O | H2O
reactant | sodium hydroxide | [OH-].[Na+]
reactant | N,N-dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
reactant | N,N-dimethylformamide | 129 mmol, 9.96 mL | CN(C=O)C | C3H7NO
product | 2-tert-butyl-1H-pyrrolo[2,3-b]pyridine-3-carbaldehyde | 11.9 mmol, 2.4 g, 41% yield | C(C)(C)(C)C1=C(C=2C(=NC=CC2)N1)C=O | C12H14N2O
